US08293768B2
Synthesis of 5-(3-(4-carbamoylbenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid
Following the procedure as described in Example 54, making variations as required to replace ethyl 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)-thiophene-2-carboxylate with ethyl 5-(3-(4-cyanobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate, the title compound was obtained as a colorless solid in 77% yield: 1H NMR (300 MHz, DMSO-d6) δ 7.97 (br s, 1H), 7.87 (d, J=7.9 Hz, 2H), 7.36 (d, J=7.9 Hz, 2H), 6.30 (s, 1H), 4.45 (s, 2H), 3.90-3.80 (m, 2H), 3.54-3.42 (m, 4H), 2.40 (s, 3H); MS (ES+) m/z 382.3 (M+23).

reactant | ethyl 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)-thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)OCC | C19H22N2O4S
reactant | ethyl 5-(3-(4-cyanobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | C(#N)C1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)OCC)C)=O)C=C1 | C19H19N3O3S
product | 5-(3-(4-carbamoylbenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | 77% yield | C(N)(=O)C1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C17H17N3O4S
